US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.049 g, 0.108 mmol), (4-((4-fluorobenzyl)oxy)phenyl)boronic acid (0.040 g, 0.161 mmol) and 2M Na2CO3 (0.134 ml, 0.269 mmol) in DMF (2 mL) was degassed for 10 min. Then, Pd(Ph3P)4 (0.012 g, 10.76 μmol) was added, degassed for 5 min and placed in a pre-heated oil bath at 100° C. After 1.5 h at 110° C., cooled and purified by prep-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0372 g, 0.065 mmol, 59.9% yield) as tan color solid. LCMS (M+H)=577.6.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.108 mmol, 0.049 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-((4-fluorobenzyl)oxy)phenyl)boronic acid | 0.161 mmol, 0.040 g | FC1=CC=C(COC2=CC=C(C=C2)B(O)O)C=C1 | C13H12BFO3
reactant | Na2CO3 | 0.269 mmol, 2M, 0.134 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 10.76 μmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.065 mmol, 0.0372 g, 59.9% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C)C | C35H45FN2O4
